US06369110B1
A solution of sodium sulfite (3.31 g, 47.94 mmol) in water (5 ml) was added dropwise to a mixture of 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (8.00 g, 45.65 mmol) and 35% hydrochloric acid (20 ml) under ice-cooling and stirred under ice-cooling for 20 minutes. Sodium acetate trihydrate (33 g) was added to the reaction mixture and the resulting mixture was added dropwise to a 15% aqueous sodium thiomethoxide solution (42.67 g, 91.31 mmol). The reaction mixture was stirred at 80° C. for 1.5 hours, adjusted to pH 9 with an aqueous sodium hydroxide solution and then extracted with ethyl acetate. The extract solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=1/30) to obtain 4.33 g of 3-methylthio-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one.

reactant | sodium sulfite | 47.94 mmol, 3.31 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 45.65 mmol, 8.00 g | NC1=CC2=C(CCCCC2=O)C=C1 | C11H13NO
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | Sodium acetate trihydrate | 33 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium thiomethoxide | 91.31 mmol, 42.67 g | C[S-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 3-methylthio-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 4.33 g | CSC1=CC2=C(CCCCC2=O)C=C1 | C12H14OS
